US06887889B2
4-(4-Iodo-phenyl)-4-methylaminomethyl-piperidine-1-carboxylic acid tert-butyl ester (0.15 g, 0.35 mmol) was dissolved in CH2Cl2 (2 mL) and 3,5-dichlorophenylisocyanate (0.066 g, 0.35 mmol, 1 eq.) was added. The reaction was stirred at room temperature for 6 h, diluted with CH2Cl2 (25 mL) and washed with saturated brine (25 mL). The aqueous layer was washed with CH2Cl2 (2×20 mL). The combined organic extracts were washed with saturated brine (20 mL), dried over anhydrous Na2SO4, filtered and concentrated by rotary evaporation to give 4-[3-(3,5-dichloro-phenyl)-1-methyl-ureidomethyl]-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (0.218 g, 100%). 1H NMR (CDCl3): δ 7.84 (d, 2H), 7.24 (m, 3H), 7.09 (m, 2H), 6.23 (br.s, 1H), 3.96 (d, 2H), 3.54 (s, 2H), 2.99 (dd, 2H), 2.70 (s, 3H), 2.28 (d, 2H), 1.90m (dd, 3H), 1.54 (s, 9H).

reactant | 4-(4-Iodo-phenyl)-4-methylaminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.35 mmol, 0.15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNC)C1=CC=C(C=C1)I | C18H27IN2O2
reactant | 3,5-dichlorophenylisocyanate | 0.35 mmol, 0.066 g, 1 eq. | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-[3-(3,5-dichloro-phenyl)-1-methyl-ureidomethyl]-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.218 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)I)CN(C(=O)NC1=CC(=CC(=C1)Cl)Cl)C | C25H30Cl2IN3O3
